US09353107B2
Step-ii: 2-(4-(4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazin-1-yl)-N,N-dimethylethanamine
Using similar reaction conditions as described in step-iii of intermediate 1, 2-(4-(4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) piperazin-1-yl)-N,N-dimethylethanamine (190 mg, 0.269 mmol) was hydrolyzed by lithium hydroxide (113 mg, 2.69 mmol), THF/Methanol/water (12/6/3 ml) to afford 34 mg (23% yield) of the titled compound. 1H NMR (CD3OD, 300 MHz): δ 8.432-8.426 (d, 1H), 7.835-7.829 (d, 1H), 7.512-7.475 (m, 2H), 7.367-7.324 (m, 1H), 7.069-6.968 (m, 3H), 6.878-6.845 (m, 1H), 5.349 (s, 2H), 3.68-3.48 (m, 2H), 3.162-3.12 (t, 2H), 2.967 (t, 1H), 2.82-2.715 (m, 8H), 2.206-2.166 (d, 6H), 1.923 (s, 1H). MS: m/z=552.2 (M+1); HPLC: 94.87% in method B.

reactant | 2-(4-(4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) piperazin-1-yl)-N,N-dimethylethanamine | 0.269 mmol, 190 mg | FC=1C=C(CN2N=C(C(=C2C)C2=CN(C3=NC=C(C=C32)C3=CC=C(C=C3)N3CCN(CC3)CCN(C)C)S(=O)(=O)C3=CC=C(C)C=C3)C)C=CC1 | C40H44FN7O2S
reactant | lithium hydroxide | 2.69 mmol, 113 mg | [OH-].[Li+]
solvent | THF Methanol water | 3 ml | C1CCOC1.CO.O
product | 2-(4-(4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazin-1-yl)-N,N-dimethylethanamine | 34 mg, 23% yield | FC=1C=C(CN2N=C(C(=C2C)C2=CNC3=NC=C(C=C32)C3=CC=C(C=C3)N3CCN(CC3)CCN(C)C)C)C=CC1 | C33H38FN7
